US07390789B2
(S)-2-aminohexanoic acid (FW 131.2, also known as L-norleucine) (1 g, 7.62 mmol), which is commercially available from Sigma Chemical Co at Sigmaaldrich.com, is dissolved in a mixture of HBr 48% (7.0 mL, 61 mmol) and H2O (10 mL). At 0° C., a solution of NaNO2 (1.7 g, 24 mmol) in H2O (5 mL) is added over a period of 30 min. The reaction is stirred for two hours. The reaction mixture is degassed in vacuo and extracted with EtOAc (2×20 mL). The extracts are washed with water (15 mL), dried (Na2SO4), filtered and evaporated to give (S)-2-bromohexanoic acid.

reactant | (S)-2-aminohexanoic acid | N[C@H](C(=O)O)CCCC | C6H13NO2
reactant | L-norleucine | N[C@@H](CCCC)C(=O)O | C6H13NO2
reactant | HBr | 61 mmol, 7.0 mL | Br | BrH
reactant | NaNO2 | 24 mmol, 1.7 g | N(=O)[O-].[Na+]
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 5 mL | O | H2O
product | (S)-2-bromohexanoic acid | Br[C@H](C(=O)O)CCCC | C6H11BrO2
